US06248739B1
To a stirred solution of N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-[2-(2-methoxyethoxy)ethyl]4-oxo-1,4-dihydro-3-quinolinecarboxamide (197 mg) from Preparation No. 41 in DMF (1 mL) is added 2,4,6-collidine (0.14 mL) and DMAP (8 mg). The solution is cooled to 0° C., and methanesulfonyl choride (69 μL) is added. After 18 h, the mixture is added to 20 mL of rapidly stirred water containing 0.75 mL of 1N HCl. The resulting precipitate is filtered, washed well with water, and dried in vacuo to afford 183 mg of N-(4-chlorobenzyl)-6-(chloromethyl)-1-[2-(2-methoxyethoxy)ethyl]4-oxo-1,4-dihydro-3-quinolinecarboxamide.

reactant | N-(4-chlorobenzyl)-6-(hydroxymethyl)-1-[2-(2-methoxyethoxy)ethyl]4-oxo-1,4-dihydro-3-quinolinecarboxamide | 197 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CO)CCOCCOC)C=C1 | C23H25ClN2O5
reactant | 2,4,6-collidine | 0.14 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonyl choride | 69 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 0.75 mL | O | H2O
product | N-(4-chlorobenzyl)-6-(chloromethyl)-1-[2-(2-methoxyethoxy)ethyl]4-oxo-1,4-dihydro-3-quinolinecarboxamide | 183 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CCl)CCOCCOC)C=C1 | C23H24Cl2N2O4
